US09278951B2
Synthesis of 2-propyl-3-methylnaphthyl-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (1.23 g, 9 mmol) was dissolved into 27 mL of acetonitrile. Potassium hydroxide (0.61 g, 9.9 mmol) was added and the mixture was allowed to stir for 0.5 h. 2-iodopropane (0.88 mL, 9 mmol) was added and the solution was allowed to reflux overnight. The solution was filtered hot to remove a white precipitate (presumed to be KBr) and 2-bromomethylnaphthalene (1.98 g, 9 mmol) was added and the mixture was returned to reflux overnight. The mixture was then allowed to cool to room temperature, resulting in a white crystalline solid (1.33 g, 36% yield). 1H NMR (500 MHz, DMSO-d6) 9.82 (1H, s, NCHN), 7.99 (4H, m, Ar), 7.57 (3H, m, Ar), 5.66 (2H, s, NCH2), 4.71 (1H, 5, NCH), 10.94 (6H, t, CH3). 13C{1H} NMR (125 MHz, DMSO-d6) 136.4 (NCN), 132.8 (Ar), 132.6 (Ar), 130.0 (Ar), 128.8 (Ar), 127.8 (Ar), 127.7 (Ar), 127.6 (Ar), 126.9 (Ar), 126.8 (Ar), 125.5 (Ar), 119.1 (Ar), 118.8 (Ar), 51.6 (CH2), 50.0 (CH2), 21.7 (CH2), 10.3 (CH3). MS: m/z=318.8 (theor for C17H17Cl2N2Br1=397.99).

reactant | 4,5-Dichloroimidazole | 9 mmol, 1.23 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 9.9 mmol, 0.61 g | [OH-].[K+]
reactant | 2-iodopropane | 9 mmol, 0.88 mL | IC(C)C | C3H7I
reactant | KBr | [K+].[Br-]
reactant | 2-bromomethylnaphthalene | 9 mmol, 1.98 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | acetonitrile | 27 mL | C(C)#N | C2H3N
product | 2-propyl-3-methylnaphthyl-4,5-dichloroimidazolium bromide | 1.33 g, 36% yield | [Br-].C(CC)C1=C(C2=CC=CC=C2C=C1C)[N+]1=CNC(=C1Cl)Cl | InChI=1S/C17H16Cl2N2.BrH/c1-3-6-13-11(2)9-12-7-4-5-8-14(12)15(13)21-10-20-16(18)17(21)19;/h4-5,7-10H,3,6H2,1-2H3;1H
